US07335654B2
A mixture of 6-ethyl-2-trifluoromethylpurine (86 mg, 0.40 mmol), 3-cyanophenylboronic acid (103 mg, 0.70 mmol), copper (II) acetate (72 mg, 0.4 mmol), triethylamine (202 mg, 2.0 mmoL), anhydrous acetonitrile (5 ml) and molecular sieves (˜10 pellets) was stirred at 50-55° C. for 18 hours. Ethyl acetate (20 ml) was added and the solid was filtered off. The filtrate was washed with 20 ml of 5% aqueous sodium bicarbonate, concentrated under vacuum, and purified by chromatography over SiO2 (ethyl acetate/hexane 1:3) to give 24 mg of 9-(3-cyanophenyl)-6-ethyl-2-trifluoromethylpurine (yield 19%). 1H NMR (300 MHz, CDCl3) δ 8.50 (s, 1H), 8.11 (m, 2H), 7.82(m, 2H), 3.35 (q, J=7.5 Hz, 2H), 1.50 (t, J=7.5 Hz, 3H). [ESMS m/z (318.4 (M+H)+)]

reactant | 6-ethyl-2-trifluoromethylpurine | 0.40 mmol, 86 mg | C(C)C1=C2NC=NC2=NC(=N1)C(F)(F)F | C8H7F3N4
reactant | 3-cyanophenylboronic acid | 0.70 mmol, 103 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | triethylamine | 202 mg | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | copper (II) acetate | 0.4 mmol, 72 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 9-(3-cyanophenyl)-6-ethyl-2-trifluoromethylpurine | 24 mg, yield 19% | C(#N)C=1C=C(C=CC1)N1C2=NC(=NC(=C2N=C1)CC)C(F)(F)F | C15H10F3N5
